US04707488
H: 1-(3-(3,5-Difluorophenyl)propyl)-5-mercaptotetrazole
To a solution of 3-(3,5-difluorophenyl)propyl isothiocyanate (0.0177 mol) in dimethylformamide (35 ml) was added water (12 ml), followed by sodium azide (0.0361 mol). The reaction was stirred one hour, then it was diluted with water and washed with ethyl acetate. The aqueous phase was acidified with 3N aqueous hydrogen chloride, extracted into ethyl acetate, washed with water, dried over sodium sulfate and was concentrated. The residue was dissolved in ethyl ether and dicyclohexylamine (1.9 ml) was added. The resulting salt was filtered and partitioned, with stirring, between ethyl ether and 3N aqueous hydrogen chloride. The ethereal layer was washed with water, dried over sodium sulfate and concentrated. The crude product was recrystallized from pet. ether to yield 1.2 g (27%) white crystals: mp 80°-81° (pet. ether).

reactant | 3-(3,5-difluorophenyl)propyl isothiocyanate | 0.0177 mol | FC=1C=C(C=C(C1)F)CCCN=C=S | C10H9F2NS
reactant | sodium azide | 0.0361 mol | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | water | 12 ml | O | H2O
product | 1-(3-(3,5-Difluorophenyl)propyl)-5-mercaptotetrazole | 1.2 g, 27% | FC=1C=C(C=C(C1)F)CCCN1N=NN=C1S | C10H10F2N4S
